US07687491B2
(4c) (5-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1e) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-2-carboximidamide (0.43 g, 1.5 mmol) that was obtained in Example 4 (4b), 4-phenyl-5-(trifluoromethyl)thiophene-2-carbonyl chloride (0.52 g, 1.8 mmol), N,N-diisopropylethylamine (0.52 ml, 3.0 mmol), and a 1.0 M solution of tetrabutylammonium fluoride (3.0 ml, 3.0 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:2) as the eluent to afford the title compound (0.60 g) in a yield of 99% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-2-carboximidamide | 1.5 mmol, 0.43 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=C(S1)C(N)=NO | C12H22N2O2SSi
reactant | 4-phenyl-5-(trifluoromethyl)thiophene-2-carbonyl chloride | 1.8 mmol, 0.52 g | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C(=O)Cl | C12H6ClF3OS
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.52 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tetrabutylammonium fluoride | 3.0 mmol, 3.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (5-{5-[4-Phenyl-5-(trifluoromethyl)-2-thienyl]-1,2,4-oxadiazol-3-yl}-2-thienyl)methanol | C1(=CC=CC=C1)C=1C=C(SC1C(F)(F)F)C1=NC(=NO1)C1=CC=C(S1)CO | C18H11F3N2O2S2
